US07618990B2
Step 6: 4-[4-(4-Bromophenyl)-1,3-thiazol-2-yl]-6-oxa-4-azaspiro[2.4]heptane-5-one
A mixture of (1-{[4-(4-bromophenyl)-1,3-thiazol-2-yl]amino}cyclopropyl)methanol (0.7598 g 2.34 mmol), prepared in previous step, and 15 mL of anhydrous acetonitrile were sonicated for 1 min and then stirred on a vortex stirrer for 2 min. To the resulting solution, carbonyldiimidazole (0.5683 g, 3.5 mmol) was added and the mixture again sonicated for 1 min and stirred on a vortex stirrer for 2 min. The resulting solution was then heated in an Emrys™ Optimizer microwave oven at 165° C. for 20 min. Upon cooling to room temperature crystals began to form. The crystals were collected by filtration and the filtrate was concentrated under reduced pressure. The residue was partitioned between methylene chloride and 2N HCl. The organic layer was separated, washed with water, dried over anhydrous MgSO4, filtered and concentrated under reduced pressure. The material obtained was combined with the crystalline material previously isolated to give the title compound (607.9 mg 75%) as a white solid, mp 201-202° C.; MS (ESI) m/z 351. HRMS: calcd for C14H11BrN2O2S+H+, 350.97973; found (ESI, [M+H]+), 350.9806.

reactant | (1-{[4-(4-bromophenyl)-1,3-thiazol-2-yl]amino}cyclopropyl)methanol | 2.34 mmol, 0.7598 g | BrC1=CC=C(C=C1)C=1N=C(SC1)NC1(CC1)CO | C13H13BrN2OS
reactant | carbonyldiimidazole | 3.5 mmol, 0.5683 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | 4-[4-(4-Bromophenyl)-1,3-thiazol-2-yl]-6-oxa-4-azaspiro[2.4]heptane-5-one | 607.9 mg, 75% | BrC1=CC=C(C=C1)C=1N=C(SC1)N1C2(CC2)COC1=O | C14H11BrN2O2S
